US06288096B1
2.75 g (9.25 mmole) 5-([4-benzyloxyphenyl]methyl)oxazolidine-2,4-dione was hydrogenated at 50 psi over night in 1,4-dioxan using Pd/C as catalyst to give 1.8 g (yield 94%) of 5-([4-hydroxyphenyl]methyl)oxazolidine-2,4-dione.

reactant | 5-([4-benzyloxyphenyl]methyl)oxazolidine-2,4-dione | 9.25 mmole, 2.75 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC1C(NC(O1)=O)=O | C17H15NO4
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 5-([4-hydroxyphenyl]methyl)oxazolidine-2,4-dione | 1.8 g, yield 94% | OC1=CC=C(C=C1)CC1C(NC(O1)=O)=O | C10H9NO4
